### PR TITLE
[Merged by Bors] - chore: patch std4#89

### PR DESCRIPTION
**Pull request by JamesGallicchio**
---

- [x] depends on: leanprover/std4#89

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by tobiasgrosser** [comment]
@JamesGallicchio, I incorporated this patch into https://github.com/leanprover-community/mathlib4/pull/8888 which updates mathlib. Happy to use either patch, just did not want to hijack your PR.

**Comment by tobiasgrosser** [comment]
@JamesGallicchio I updated this PR to mathlib master, after https://github.com/leanprover/std4/pull/89 has been merged into std4. Following @eric-wieser's advice of keeping PRs small, we probably should merge this PR as it covers exactly one std4 PR. Mathlib has been updated up to this PR, so this is the next PR in line for updating std4. From my perspective, this is ready to review, but I leave this to @JamesGallicchio who owns this PR.

File: Archive/Wiedijk100Theorems/BallotProblem.lean [hunk 1]
```diff
@@ -72,6 +72,7 @@ def countedSequence (p q : ℕ) : Set (List ℤ) :=
   {l | l.count 1 = p ∧ l.count (-1) = q ∧ ∀ x ∈ l, x = (1 : ℤ) ∨ x = -1}
 #align ballot.counted_sequence Ballot.countedSequence
 
+open List in
```
Comment (eric-wieser) [inline Archive/Wiedijk100Theorems/BallotProblem.lean:75]:
```suggestion
open scoped List in
```
and throughout; to make it clear that we just want the notation

File: Mathlib/Data/Finsupp/BigOperators.lean [hunk 2]
```diff
@@ -107,7 +107,7 @@ theorem Multiset.support_sum_eq [AddCommMonoid M] (s : Multiset (ι →₀ M))
       simp only [quot_mk_to_coe'', coe_map, sup_coe, ge_iff_le, Finset.le_eq_subset,
         Finset.sup_eq_union, Finset.bot_eq_empty, List.foldr_map]
   · simp only [Multiset.quot_mk_to_coe'', Multiset.coe_map, Multiset.coe_eq_coe] at hl
-    exact hl.symm.pairwise hd fun _ _ h ↦ _root_.Disjoint.symm h
+    exact hl.symm.pairwise hd (fun h => _root_.Disjoint.symm h)
```
Comment (eric-wieser) [inline Mathlib/Data/Finsupp/BigOperators.lean:110]: To minimize the diff:
```suggestion
    exact hl.symm.pairwise hd fun h ↦ _root_.Disjoint.symm h
```

File: Mathlib/Testing/SlimCheck/Functions.lean [hunk 3]
```diff
@@ -246,6 +247,10 @@ end SampleableExt
 
 end TotalFunction
 
+-- We need List perm notation from `List` namespace but
+-- can't open `_root_.List` directly
+end SlimCheck open List namespace SlimCheck
+
```
Comment (eric-wieser) [inline Mathlib/Testing/SlimCheck/Functions.lean:253]: I think this is worth filing an issue about.

**Comment by JamesGallicchio** [comment]
If someone else wants to take this over, I'm going to be unavailable this weekend.

File: Archive/Wiedijk100Theorems/BallotProblem.lean [hunk 4]
```diff
@@ -72,6 +72,7 @@ def countedSequence (p q : ℕ) : Set (List ℤ) :=
   {l | l.count 1 = p ∧ l.count (-1) = q ∧ ∀ x ∈ l, x = (1 : ℤ) ∨ x = -1}
 #align ballot.counted_sequence Ballot.countedSequence
 
+open scoped List in
```
Comment (semorrison) [inline Archive/Wiedijk100Theorems/BallotProblem.lean:75]: Why are we doing this?

Comment (semorrison) [reply Archive/Wiedijk100Theorems/BallotProblem.lean:75]: I see, it's scoped notation for Perm now. I guess that's okay. It might make more sense to just open it in the entire file when needed, but that can be changed later if preferable.

File: Mathlib/Testing/SlimCheck/Functions.lean [hunk 5]
```diff
@@ -246,6 +247,10 @@ end SampleableExt
 
 end TotalFunction
 
+-- We need List perm notation from `List` namespace but can't open `_root_.List` directly.
+-- Lean issue: https://github.com/leanprover/lean4/issues/3045
+end SlimCheck open List namespace SlimCheck
+
```
Comment (semorrison) [inline Mathlib/Testing/SlimCheck/Functions.lean:253]:
```suggestion
end SlimCheck

-- We need List perm notation from `List` namespace but can't open `_root_.List` directly,
-- so have to close the `SlimCheck` namespace first.
-- Lean issue: https://github.com/leanprover/lean4/issues/3045
open List

namespace SlimCheck

```

**Comment by semorrison** [comment]
bors merge

**Comment by semorrison** [comment]
bors merge
